US06589970B2
Step 5: 3-Methyl-benzofuran-2-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide.
A mixture of 3-methyl-benzofuran-2-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (2.039 g, 4.40 mmol), prepared in the previous step, sodium azide (846 mg, 13.0 mmol) and ammonium chloride (695 mg, 13.0 mmol) in 60 mL of DMF was stirred under nitrogen at 100° C. for 6 h. The reaction was diluted with water, made basic by the addition of 1 N NaOH and extracted three times with ethyl acetate. The aqueous layer was acidified with 1 N HCl, which caused an oil to precipitate. The aqueous layer was decanted from the oil. Water was added to the oil, which caused it to solidify. The solid was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound as a white solid, mp 164-166° C.

reactant | 3-methyl-benzofuran-2-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 4.40 mmol, 2.039 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C=1OC2=C(C1C)C=CC=C2)C | C24H19BrN2O3
reactant | sodium azide | 13.0 mmol, 846 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 13.0 mmol, 695 mg | [Cl-].[NH4+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Methyl-benzofuran-2-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CN(C(=O)C=1OC2=C(C1C)C=CC=C2)C | C24H20BrN5O3
